US04012524
Step B: 5-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole
A mixture of (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetonitrile (7.5 g., 0.0265 mole), sodium azide (2.02 g., 0.031 mole) and ammonium chloride (1.68 g., 0.0031 mole) in dimethylformamide (40 ml.) is heated on a steam bath for one hours and poured into dilute aqueous hydrochloric acid affording 7.3 g. (85%) of 5-(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole which melts at 205°-206° C. after recrystallization from nitromethane.

reactant | (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetonitrile | 0.0265 mole, 7.5 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC#N)CC | C13H11Cl2NO2
reactant | sodium azide | 0.031 mole, 2.02 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.0031 mole, 1.68 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 7.3 g | Cl | ClH
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole | O=C(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)CC | C13H12Cl2N4O2
